US06841549B1
1H NMR (400 MHz, CDCl3) δ ppm; 2.80 (2H, t, J=6.6 Hz), 3.94 (2H, q, J=6.6 Hz), 7.81 (1H, bs), 8.46 (1H, s) (2) 2-[(5-Amino-6-Chloro-4-pyrimidinyl)amino]ethyl cyanide
2-[(6-Chloro-5-nitro-4-pyrimidinyl)amino]ethyl cyanide (18.7 g, 82.2 mmol) was dissolved in 180 ml ethanol, 180 ml water and 18 ml acetic acid, and zinc powder was added slowly thereto at 0° C. The reaction solution was returned to room temperature and stirred for 30 minutes. Then, the insoluble matters were filtered off, and the filtrate was evaporated. The residue was diluted with ethyl acetate and washed with water and brine, and the organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was suspended in diethyl ether, and the precipitated solid was collected by filtration to give the title compound which was then washed with diethyl ether to give the title compound (44.6 g, 51%).

reactant | 2-[(6-Chloro-5-nitro-4-pyrimidinyl)amino]ethyl cyanide | 82.2 mmol, 18.7 g | ClC1=C(C(=NC=N1)NCCC#N)[N+](=O)[O-] | C7H6ClN5O2
reactant | water | 180 ml | O | H2O
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | zinc | [Zn] | Zn
product | 2-[(5-Amino-6-Chloro-4-pyrimidinyl)amino]ethyl cyanide | NC=1C(=NC=NC1Cl)NCCC#N | C7H8ClN5
